US04009170
A solution of 3,4-dihydroisocarbostyril (IV: Y=Y'=Z=Z'=H) (64.3 g.) in dried methylene dichloride was added to a methylene dichloride (250 ml.) solution of triethyloxonium fluoborate, prepared from boron trifluoride etherate (227 g.), epichlorohydrin (74 g.) and absolute ether (600 ml.) After being stirred (for about 16 hr. at 25° C.), the mixture was treated with potassium carbonate solution (50%, 75 ml.) and water (25 ml.), stirred (for 1-1/2 hr.) and filtered. The solid material was washed thoroughly with methylene dichloride and dissolved in hot water. The solution was filtered and extracted three times with chloroform. 1-Ethoxy-3,4-dihydroisoquinoline fluoborate (10.5 g.) obtained in an earlier run was dissolved in potassium carbonate solution and the solution was extracted three times with methylene dichloride. The combined methylene dichloride washing, chloroform extract and methylene dichloride extract were stripped of solvents and distilled under reduced pressure, affording 1-ethoxy-3,4-dihydroisoquinoline (III: Q=C2H5, Y=Y'=Z=Z'=H) (68.4 g., b.p. 110°-137° C./16 mm. Hg), part (10.82 g.) of which was a center cut (b.p. 129°-131° C./16 mm. Hg). B. A solution of 1-ethoxy-3,4-dihydroisoquinoline (2.0 g.) in ethanol (10 ml.) was added dropwise with stirring to a solution (at 80° C.) of hydrazine (95%, 1.83 g.) in ethanol (5 ml.). The solution was concentrated, diluted with chloroform, washed with water, dried and concentrated. The residue (1.6 g.) was crystalized from ether in three crops (0.7 g., 0.5 g., 0.3 g.). Recrystallization of the first crop from ether-pentane afforded 1-hydrazino-3,4-dihydroisoquinoline (V: Y=Y'=Z=Z') (m.p. 55°-57° C.).

reactant | 1-ethoxy-3,4-dihydroisoquinoline | 2.0 g | C(C)OC1=NCCC2=CC=CC=C12 | C11H13NO
reactant | hydrazine | 1.83 g | NN | H4N2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-hydrazino-3,4-dihydroisoquinoline | N(N)C1=NCCC2=CC=CC=C12 | C9H11N3
